US04067720
10 ml of methyl isocyanate were added to a solution of 17.5 g of 3-hydroxy-5-n-butoxy-1,2,4-thiadiazole in 125 ml of tetrahydrofuran containing 0.5 ml of triethylamine and after stirring for 2 hours at 20° C, the mixture was evaporated to dryness. The residue was empasted with isopropyl ether and was vacuum filtered and dried to obtain 21 g of 2-(N-methylcarbamoyl)-5-n-butoxy-1,2,4-thiadiazole-3-one melting at 108° C.

reactant | methyl isocyanate | 10 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-n-butoxy-1,2,4-thiadiazole | 17.5 g | OC1=NSC(=N1)OCCCC | C6H10N2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-n-butoxy-1,2,4-thiadiazole-3-one | 21 g | CNC(=O)N1SC(=NC1=O)OCCCC | C8H13N3O3S
